US07119207B2
6-Ethoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde
The title compound was prepared according to the procedure used for the preparation of 6-cyclopropyl-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 1.47 (3H, t, J=7.0 Hz), 2.65 (2H, m), 2.93 (2H, m), 3.36 (3H, s), 4.14 (2H, q, 7.1 Hz), 6.81 (1H, s), 7.42 (1H, s), 10.45 (1H, s). m/z (APCI+) 233.9 (M+1). HPLC (aqueous 200 Mm ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 μM, 125×4 mm column), 4.167 min.

reactant | 6-cyclopropyl-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | C1(CC1)C=1C=C2CCC(N(C2=CC1C=O)C)=O | C14H15NO2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | Hypersil | 5 μM | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-Ethoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | C(C)OC=1C=C2CCC(N(C2=CC1C=O)C)=O | C13H15NO3
